US07893099B2
Step 7: (1R,2R,4R)-4-(4-Bromo-2-trifluoromethyl-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide
To a mixture of (1R,2R,4S)-4-(4-Bromo-2-trifluoromethyl-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid (150 mg, 0.29 mmol), N,N-diisopropylethylamine (0.15 mL, 0.87 mmol), 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium (221 mg, 0.58 mmol) in acetonitrile was added 1-amino-cyclopropyl cyanic hydrochloride (41 mg, 0.34 mmol). The reaction mixture was stirred at room temperature for 16 h then concentrated in vacuo and partitioned between ethyl acetate and an aqueous solution of sodium carbonate (5% w/w). The aqueous layer was extracted with ethyl acetate then the combined organic layers were washed with aqueous hydrochloric acid (1N) and brine then dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography on silica gel with a gradient of dichloromethane/methanol (98:2 v/v) as eluant to afford the title compound (144 mg, 85%) as a brown solid. MS (EI): 584.0 (M−H)−.

reactant | (1R,2R,4S)-4-(4-Bromo-2-trifluoromethyl-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid | 0.29 mmol, 150 mg | BrC1=CC(=C(C=C1)S(=O)(=O)[C@H]1C[C@H]([C@@H](C1)C(=O)O)C(=O)N1CC(C1)(F)F)C(F)(F)F | C17H15BrF5NO5S
reactant | N,N-diisopropylethylamine | 0.87 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(1H-7-Azabenzotriazol-1-yl)-1,1,3,3-tetramethyl uronium hexafluorophosphate methanaminium | 0.58 mmol, 221 mg | C[NH3+].F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | 1-amino-cyclopropyl cyanic hydrochloride | 0.34 mmol, 41 mg | C1CC1(C#N)N.Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | (1R,2R,4R)-4-(4-Bromo-2-trifluoromethyl-benzenesulfonyl)-2-(3,3-difluoro-azetidine-1-carbonyl)-cyclopentanecarboxylic acid (1-cyano-cyclopropyl)-amide | 144 mg, 85% | C(#N)C1(CC1)NC(=O)[C@H]1[C@@H](C[C@@H](C1)S(=O)(=O)C1=C(C=C(C=C1)Br)C(F)(F)F)C(=O)N1CC(C1)(F)F | C21H19BrF5N3O4S
